US05202330
3,6-Dihydro-4-methyl-6-(3-nitrophenyl)-2-thioxo-1,5(2H)-pyrimidinedicarboxylic acid, 1-methyl 5-(1-methylethyl) ester
The ester product from part (b) (7.42 g.) is dissolved in dichloromethane (50 ml.) and treated with trifluoroacetic acid (5 ml.) and ethanethiol (1.5 ml.). The reaction is stirred at room temperature for 16 hours, and then dichloromethane (50 ml.) is added. The organic layer is washed with water (2×150 ml.), saturated sodium bicarbonate (2×150 ml.), saturated sodium carbonate (100 ml.), sodium dihydrogen phosphate (100 ml.), and saturated sodium chloride (100 ml.), dreid over magnesium sulfate, and evaporated in vacuo to give 6.31 g. of product as an oil. Crystallization from ethyl acetate: hexanes gives 3.2 g. of yellow solid 3,6-dihydro-4-methyl-6-(3-nitrophenyl)-2-thioxo-1,5(2H)-pyrimidinedicarboxylic acid, 5-(1-methylethyl 1-methyl ester; m.p. 130.5°-131.5°. TLC (silica gel; ethyl acetate:hexanes, 1:2) Rf =0.30.

reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethanethiol | 1.5 ml | C(C)S | C2H6S
reactant | 3,6-dihydro-4-methyl-6-(3-nitrophenyl)-2-thioxo-1,5(2H)-pyrimidinedicarboxylic acid | CC=1NC(N(C(C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)=S | C13H11N3O6S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3,6-Dihydro-4-methyl-6-(3-nitrophenyl)-2-thioxo-1,5(2H)-pyrimidinedicarboxylic acid, 1-methyl 5-(1-methylethyl) ester | CC=1NC(N(C(C1C(=O)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)=S | C17H19N3O6S
